US07737166B2
5-Bromo-4-fluoro-2-hydroxy-3-nitrobenzoic acid (I-228)
5-Bromo-4-fluoro-2-hydroxybenzoic acid (I-227) (34.39 g, 0.146 mol) was dissolved in concentrated sulfuric acid (260 ml), and cooled at 0° C. At the same temperature, fuming nitric acid (d=1.52) (6.67 ml, 0.161 mol) was dropwise added with keeping the inner temperature at 0° C. or lower (about 20 minutes). After the addition, the disappearance of the starting material was confirmed by TLC, then the reaction liquid was gradually poured into ice. The aqueous layer was extracted with ethyl acetate, the organic layer was washed with saturated brine, then dried over anhydrous sodium sulfate, and the solvent was evaporated away. N-hexane was added to the residue, the crystal was ground, the suspension was stirred at room temperature for 1 hour (optionally with sonication). The crystal was washed with n-hexane, followed by filtration and drying to obtain the entitled compound (33.82 g, 83%) as an orange solid.

reactant | 5-Bromo-4-fluoro-2-hydroxybenzoic acid | 0.146 mol, 34.39 g | BrC=1C(=CC(=C(C(=O)O)C1)O)F | C7H4BrFO3
reactant | nitric acid | 0.161 mol, 6.67 ml | [N+](=O)(O)[O-] | HNO3
solvent | sulfuric acid | 260 ml | S(O)(O)(=O)=O | H2O4S
product | 5-Bromo-4-fluoro-2-hydroxy-3-nitrobenzoic acid | 33.82 g, 83% | BrC=1C(=C(C(=C(C(=O)O)C1)O)[N+](=O)[O-])F | C7H3BrFNO5
